US07947690B2
A mixture of N-(2-nitrobenzenesulfonyl)ethylenediamine, 3-hydroxy-2,2-dimethylpropionic acid, EDCI, HOBt, methylene chloride, and DMF was stirred at ambient temperature for 4 hours to yield 3-hydroxy-2,2-dimethyl-N-(2-{[(2-nitrophenyl)sulfonyl]amino}ethyl)propanamide. A mixture of this compound, triphenylphosphine, a toluene solution of diethyl azodicarboxylate, and THF was stirred at 0° C. for 15 hours to yield 6,6-dimethyl-1-[(2-nitrophenyl)sulfonyl]-1,4-diazepan-5-one. A mixture of this compound, 4-methylbenzenethiol, potassium carbonate, and acetonitrile was stirred at ambient temperature for 3 hours to yield 6,6-dimethyl-1,4-diazepan-5-one.

reactant | N-(2-nitrobenzenesulfonyl)ethylenediamine | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)NCCN | C8H11N3O4S
reactant | 3-hydroxy-2,2-dimethylpropionic acid | OCC(C(=O)O)(C)C | C5H10O3
reactant | EDCI | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | CN(C)C=O | C3H7NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-hydroxy-2,2-dimethyl-N-(2-{[(2-nitrophenyl)sulfonyl]amino}ethyl)propanamide | OCC(C(=O)NCCNS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])(C)C | C13H19N3O6S
